US04579947
1-{3-[4-(4-Chlorobenzyl)piperazin-1-yl]propyl}-3-methylurea dihydrochloride
A solution of 1-(3-aminopropyl)-4-(4-chlorobenzyl)piperazine (2.68 g; 10 mmole) and methyl isocyanate (0.57 g; 10 mmole) in methylene chloride (10 ml) was stirred at room temperature overnight. The reaction mixture was evaporated under reduced pressure, and the residue was chromatographed on a silica gel column (1"×24") using a methanolammonium hydroxide gradient (3-6%) with methylene chloride as the eluant. The product (1.0 g; 31% yield) was dissolved in methylene chloride/ether (1:1, 20 ml), and the solution was treated with anhydrous hydrogen chloride to precipitate the title compound as colorless crystals, m.p. 193°-207° C. (decomp.).

reactant | 1-(3-aminopropyl)-4-(4-chlorobenzyl)piperazine | 10 mmole, 2.68 g | NCCCN1CCN(CC1)CC1=CC=C(C=C1)Cl | C14H22ClN3
reactant | methyl isocyanate | 10 mmole, 0.57 g | CN=C=O | C2H3NO
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-{3-[4-(4-Chlorobenzyl)piperazin-1-yl]propyl}-3-methylurea dihydrochloride | 31% yield | Cl.Cl.ClC1=CC=C(CN2CCN(CC2)CCCNC(=O)NC)C=C1 | InChI=1S/C16H25ClN4O.2ClH/c1-18-16(22)19-7-2-8-20-9-11-21(12-10-20)13-14-3-5-15(17)6-4-14;;/h3-6H,2,7-13H2,1H3,(H2,18,19,22);2*1H
